US08912188B2
Methyl 3-chloro-7-fluoro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (4.0 g, 10.62 mmol) was added to sulfuric acid (conc, 15 ml) in several batches with stirring at room temperature, and then stirred for 10 minutes. The resulting solution was diluted with ice-water (100 ml) and extracted with ethyl acetate (3×200 ml). The organic layers were combined and dried over anhydrous magnesium sulfate and concentrated in vacuo to afford methyl 3-chloro-7-fluoro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a yellow solid (2.0 g, crude), which was used in the next step without further purification.

reactant | Methyl 3-chloro-7-fluoro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 10.62 mmol, 4.0 g | ClC=1C(N(C2=CC(=C(C=C2N1)C(=O)OC)F)CC1=CC=C(C=C1)OC)=O | C18H14ClFN2O4
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 3-chloro-7-fluoro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | ClC=1C(NC2=CC(=C(C=C2N1)C(=O)OC)F)=O | C10H6ClFN2O3
